US05985281
Synthesis of Hippuryl-L-Aspartic acid
The starting material was synthesised as follows. To a solution of hippuric acid (0.90 g, 5×10-3 moles) and L-aspartic acid dibenyzl ester (2.31 g, 5×10-3 moles) in DMF (35 ml) was added 1-hyhdroxybenzotriazole (0.73 g, 5.5×10-3 moles), triethylamine (1.4 ml, 9.7×10-3 moles) and 1-(3-dimethyl-aminopropyl)-3-ethylcarbodiimide, HCl salt (1.05 g, 5.5×10-3 moles). The mixture was stirred for 4 hours at room temperature then poured into water (450 ml) and extracted twice with ethyl acetate (100 ml). The extract was washed with saturated sodium bicarbonate solution, water, 2N HCl and water. The organic phase was dried over MgSO4 and evaporated to dryness to obtain the desired starting material as a yellow oil. 1.90 g (80%)

reactant | hippuric acid | 5×10-3 moles, 0.90 g | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
reactant | L-aspartic acid | 5×10-3 moles, 2.31 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | triethylamine | 9.7×10-3 moles, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | water | 450 ml | O | H2O
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | Hippuryl-L-Aspartic acid | C(CNC(=O)C1=CC=CC=C1)(=O)N[C@@H](CC(=O)O)C(=O)O | C13H14N2O6
